US05215982
To a suspension of lithium aluminum hydride (1.57 g) in tetrahydrofuran (80 ml) was dropwise added a solution of 1-ethoxycarbonylmethyl-1H-imidazo[1,2-b]pyrazole (8 g) in tetrahydrofuran (40 ml) at 50° C. The mixture was refluxed for 1 hour. The reaction mixture was cooled under ice-bath. To a cooled mixture was added sodium fluoride (6.95 g) and then water (2.23 ml) was added thereto under ice-cooling. The insoluble material was filtered off and the filtrate was evaporated to give the crystals. The crystals were washed with isopropyl ether and dried to give 1-(2-hydroxyethyl)-1H-imidazo[1,2-b]-pyrazole (4.82 g).

reactant | lithium aluminum hydride | 1.57 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 1-ethoxycarbonylmethyl-1H-imidazo[1,2-b]pyrazole | 8 g | C(C)OC(=O)CN1C=CN2N=CC=C21 | C9H11N3O2
reactant | sodium fluoride | 6.95 g | [F-].[Na+]
reactant | water | 2.23 ml | O | H2O
solvent | tetrahydrofuran | 80 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
product | 1-(2-hydroxyethyl)-1H-imidazo[1,2-b]-pyrazole | 4.82 g | OCCN1C=CN2N=CC=C21 | C7H9N3O
